US07176242B2
N-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-[(3-iodobenzyl)amino]propyl}-3-{[(2-hydroxyethyl)(propyl)amino]methyl}benzamide dihydrochloride
Methyl 3-{[(2-hydroxyethyl)(propyl)amino]methyl}benzoate (500 mg, 2 mmol) and lithium hydroxide monohydrate (170 mg, 4 mmol) are stirred in 2:1:1 tetrahydrofuran/methanol/water (4 mL) at room temperature for 16 h. The reaction is concentrated under reduced pressure and redissolved in DMF (15 mL). To this solution is added (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-iodobenzyl)amino]butan-2-ol dihydrochloride (1 g, 2 mmol), diisopropylethylamine (1.4 mL, 8 mmol), then HATU (1.1 g, 3 mmol), and the reaction stirred 2 h. Purification by flash column chromatography (silica, 10% methanol/chloroform) provides the title compound as the free base. The residue is dissolved in diethyl ether (5 mL) and 1N hydrochloric acid in diethyl ether (3 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 652.2 [M+H]+.

reactant | Methyl 3-{[(2-hydroxyethyl)(propyl)amino]methyl}benzoate | 2 mmol, 500 mg | OCCN(CCC)CC=1C=C(C(=O)OC)C=CC1 | C14H21NO3
reactant | lithium hydroxide monohydrate | 4 mmol, 170 mg | O.[OH-].[Li+]
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-iodobenzyl)amino]butan-2-ol dihydrochloride | 2 mmol, 1 g | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)I)O)CC1=CC(=CC(=C1)F)F
reactant | diisopropylethylamine | 8 mmol, 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 3 mmol, 1.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | tetrahydrofuran methanol water | 4 mL | O1CCCC1.CO.O
product | N-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-[(3-iodobenzyl)amino]propyl}-3-{[(2-hydroxyethyl)(propyl)amino]methyl}benzamide dihydrochloride | Cl.Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)I)O)NC(C2=CC(=CC=C2)CN(CCC)CCO)=O)C=C(C1)F | InChI=1S/C30H36F2IN3O3.2ClH/c1-2-9-36(10-11-37)20-22-6-3-7-24(12-22)30(39)35-28(16-23-13-25(31)17-26(32)14-23)29(38)19-34-18-21-5-4-8-27(33)15-21;;/h3-8,12-15,17,28-29,34,37-38H,2,9-11,16,18-20H2,1H3,(H,35,39);2*1H/t28-,29+;;/m0../s1
